US05036079
4-[3-(2-Pyridyl)-2-propenoyl)benzaldehyde Diethyl Acetal
By the same method N-methylpyrrole-2-carbaldehyde and 1-benzyl imidazole-2-carbaldehyde are converted to 4-[3-(1-methyl-2-pyrrolyl)-2-propenoyl)benzaldehyde diethyl acetal and 4-[3-(1-benzyl-2-imidazolyl)-2-propenoyl)benzaldehyde.

reactant | N-methylpyrrole-2-carbaldehyde | CN1C(=CC=C1)C=O | C6H7NO
reactant | 1-benzyl imidazole-2-carbaldehyde | C(C1=CC=CC=C1)N1C(=NC=C1)C=O | C11H10N2O
reactant | 4-[3-(1-methyl-2-pyrrolyl)-2-propenoyl)benzaldehyde diethyl acetal | C(C)OC(C1=CC=C(C=C1)C(C=CC=1N(C=CC1)C)=O)OCC | C19H23NO3
reactant | 4-[3-(1-benzyl-2-imidazolyl)-2-propenoyl)benzaldehyde | C(C1=CC=CC=C1)N1C(=NC=C1)C=CC(=O)C1=CC=C(C=O)C=C1 | C20H16N2O2
product | 4-[3-(2-Pyridyl)-2-propenoyl)benzaldehyde Diethyl Acetal | C(C)OC(C1=CC=C(C=C1)C(C=CC1=NC=CC=C1)=O)OCC | C19H21NO3
